US07067529B2
The above 1-(3-methoxybenzyl)-4-chloromethyl-6,7-dimethoxyisoquinoline (361 mg, 1.0 mmol) was suspended into 15 ml of 90% ethanol. Then sodium cyanide (392 mg, 8.0 mmol) and sodium iodide (83 mg, 0.5 mmol) was added. The mixture was refluxed for 4 hrs. solvents were evaporated and the residue was extracted with ethyl acetate. After the evaporation of solvents, the residue was purified by flash column chromatography using ethyl acetate and hexane (2/1) to give 1-(3-methoxybenzyl)-4-cyanomethyl-6,7-dimethoxyisoquinoline as a solid (165 mg, 47.4%). ES-MS calculated for C21H20O3N2 (m/e) 348.41, observed 349.5.5 (M+1). 1H-NMR is consistent with the desired structure.

reactant | 1-(3-methoxybenzyl)-4-chloromethyl-6,7-dimethoxyisoquinoline | 1.0 mmol, 361 mg | COC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OC)CCl)C=CC1 | C20H20ClNO3
reactant | sodium cyanide | 8.0 mmol, 392 mg | [C-]#N.[Na+]
reactant | sodium iodide | 0.5 mmol, 83 mg | [I-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-(3-methoxybenzyl)-4-cyanomethyl-6,7-dimethoxyisoquinoline | 165 mg, 47.4% | COC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OC)CC#N)C=CC1 | C21H20N2O3
